US04198418
A mixture of 2.0 g of 10,11-dihydro-11-oxospiro-[dibenz(b,f)-oxepin-10,4'-piperidine], free base of Example 3, 0.74 g of chloromethylcyclopropane, 1.8 g of sodium bicarbonate and 1.8 g of potassium iodide in 15 ml of dimethylformamide is stirred at 70°-80° C. for 16 hours. The resulting suspension is permitted to cool before being diluted with ether and water. The organic phase is successively dried, filtered and concentrated under vacuum, leaving a viscous oil. The oil is dissolved in chloroform and the chloroform solution is passed through an alumina column, with ether as an eluant. The purified oil is dissolved in ether where it is converted to its hydrobromic acid salt which is recrystallized from a methyl alcohol-ether mixture to provide rhombic crystals, mp 258°-259° C., (dec) of 1'-cyclopropylmethyl-10,11-dihydro-11-oxospiro[dibenz(b,f)oxepin-10,4'-piperidine]hydrobromide.

reactant | 10,11-dihydro-11-oxospiro-[dibenz(b,f)-oxepin-10,4'-piperidine] | 2.0 g | O=C1C2=C(OC3=C(C=CC=C3)C13CCNCC3)C=CC=C2 | C18H17NO2
reactant | chloromethylcyclopropane | 0.74 g | ClCC1CC1 | C4H7Cl
reactant | sodium bicarbonate | 1.8 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | 1.8 g | [I-].[K+]
reactant | hydrobromic acid | Br | BrH
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1'-cyclopropylmethyl-10,11-dihydro-11-oxospiro[dibenz(b,f)oxepin-10,4'-piperidine]hydrobromide | Br.C1(CC1)CN1CCC2(CC1)C(C1=C(OC3=C2C=CC=C3)C=CC=C1)=O | InChI=1S/C22H23NO2.BrH/c24-21-17-5-1-3-7-19(17)25-20-8-4-2-6-18(20)22(21)11-13-23(14-12-22)15-16-9-10-16;/h1-8,16H,9-15H2;1H
